US08003785B2
A mixture of 0.1 g (0.32 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-20) and 0.1 g (0.38 mmole) of 4-amino-3-chloro-N-(1-methyl-piperidin-4-yl)-benzamide in 10 mL of ethanol-water-hydrochloric acid (20:80:1) was refluxed for 18 hours, and then heated in a pressure tube at 130 degrees for 3 hours. After removal of the solvents under reduced pressure, dichloromethane and saturated sodium carbonate were added. The mixture was extracted with dichloromethane twice. The combined organic layers were washed three times with sodium carbonate, three times with water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-75:25) gave 0.028 g of 3-chloro-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide (I-179) as a white solid.

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.32 mmole, 0.1 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1 | C13H15ClF2N4O
reactant | 4-amino-3-chloro-N-(1-methyl-piperidin-4-yl)-benzamide | 0.38 mmole, 0.1 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)Cl | C13H18ClN3O
solvent | ethanol water hydrochloric acid | 10 mL | C(C)O.O.Cl
product | 3-chloro-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide | 0.028 g | ClC=1C=C(C(=O)NC2CCN(CC2)C)C=CC1NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1 | C26H32ClF2N7O2
